US06600046B2
Preparation of 3-[2-(4-(methylthio)phenyl)-2-cyanoacetyl](6-methyl)pyridine
Under an atmosphere of nitrogen, a mixture of 38.5 g (250 mmol) of ethyl 6-methylnicotinate, 29.9 g (500 mmol) of sodium methoxide (90.5%) and 300 ml of toluene was added, at 85-90° C. and over the course of 30 min, to a solution of 47.3 g (250 mmol) of 4-(methylthio)phenylacetonitrile in 75 ml of toluene. This mixture was stirred under reflux for 14 h, then distilled until the overhead temperature exceeded 110° C. and kept at reflux for another 6 h. The reaction mixture was poured into 500 g of ice water, the organic phase was decanted off and the aqueous phase was extracted with 3×100 ml of toluene. The aqueous phase was acidified to pH 6.0 using conc. HCl. The resulting yellow-beige suspension was filtered and the residue was washed with water and dried. This gave 53.9 g (76%) of the title product in the form of a yellow solid.

reactant | ethyl 6-methylnicotinate | 250 mmol, 38.5 g | CC1=NC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | sodium methoxide | 500 mmol, 29.9 g | C[O-].[Na+]
reactant | 4-(methylthio)phenylacetonitrile | 250 mmol, 47.3 g | CSC1=CC=C(C=C1)CC#N | C9H9NS
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-(methylthio)phenyl)-2-cyanoacetyl](6-methyl)pyridine | CSC1=CC=C(C=C1)C(C(=O)C=1C=NC(=CC1)C)C#N | C16H14N2OS
